US08703758B2
D) tert-butyl [(1S)-2-(4-hydroxyphenoxy)-1-methylethyl]carbamate
A mixture of 4-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)phenyl acetate (70 g), potassium carbonate (156 g) and methanol (800 mL) was stirred at room temperature for 3 days. The reaction mixture was concentrated under reduced pressure, and the obtained residue was neutralized with aqueous citric acid solution, and diluted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound (40.5 g).

reactant | 4-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)phenyl acetate | 70 g | C(C)(=O)OC1=CC=C(C=C1)OC[C@H](C)NC(=O)OC(C)(C)C | C16H23NO5
reactant | potassium carbonate | 156 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 800 mL | CO | CH4O
product | tert-butyl [(1S)-2-(4-hydroxyphenoxy)-1-methylethyl]carbamate | 40.5 g | OC1=CC=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C14H21NO4
